US08383644B2
(S)-2-({(3S,8S)-7-Benzoyl-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-3-[4-(2-methyl-pyridin-4-yloxy)-phenyl]-propionic acid
The title compound (24 mg) was prepared from (S)-2-tert-butoxycarbonylamino-3-{(S)-2-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3-dihydro-benzo[1,4]dioxin-6-yl}-propionic acid methyl ester, which was deprotected according to General Procedure C, subjected to General Procedure V, then acylated with benzoyl chloride according to General Procedure F. Hydrolysis followed General Procedure B and the resulting acid and (S)-2-amino-3-[4-(2-methyl-pyridin-4-yloxy)-phenyl]-propionic acid methyl ester dihydrochloride were reacted according to General Procedures L and B. LCMS (m/z): 845.

reactant | (S)-2-tert-butoxycarbonylamino-3-{(S)-2-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3-dihydro-benzo[1,4]dioxin-6-yl}-propionic acid methyl ester | COC([C@H](CC1=CC2=C(O[C@H](CO2)C2=CC=C(C=C2)OCC2=CC(=C(C=C2)Cl)Cl)C=C1)NC(=O)OC(C)(C)C)=O | C30H31Cl2NO7
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | (S)-2-amino-3-[4-(2-methyl-pyridin-4-yloxy)-phenyl]-propionic acid methyl ester dihydrochloride | Cl.Cl.COC([C@H](CC1=CC=C(C=C1)OC1=CC(=NC=C1)C)N)=O
product | (S)-2-({(3S,8S)-7-Benzoyl-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-3-[4-(2-methyl-pyridin-4-yloxy)-phenyl]-propionic acid | 24 mg | C(C1=CC=CC=C1)(=O)N1CC=2C=C3C(=CC2C[C@H]1C(=O)N[C@H](C(=O)O)CC1=CC=C(C=C1)OC1=CC(=NC=C1)C)OC[C@@H](O3)C3=CC=C(C=C3)OCC3=CC(=C(C=C3)Cl)Cl | C47H39Cl2N3O8
